US08530504B2
3-Methoxypropyl methanesulfonate
To a dichloromethane (50 mL) mixture of 3-methoxy-1-propanol (2.70 g, 30.0 mmol) and triethylamine (4.62 mL, 33.0 mmol), was added methanesulfonyl chloride (2.45 mL, 31.5 mmol) while stirring on ice, and the resulting mixture was stirred at room temperature for 30 minutes. Water and ethyl acetate were added to the reaction mixture. After thoroughly shaking the mixture, the organic layer was separated, and the organic layer was washed with brine and dried over anhydrous magnesium sulfate. The mixture was filtered, and the solvent in the filtrate was then distilled off under reduced pressure.

reactant | dichloromethane | 50 mL | ClCCl | CH2Cl2
reactant | 3-methoxy-1-propanol | 30.0 mmol, 2.70 g | COCCCO | C4H10O2
reactant | triethylamine | 33.0 mmol, 4.62 mL | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 31.5 mmol, 2.45 mL | CS(=O)(=O)Cl | CH3ClO2S
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | Water | O | H2O
product | 3-Methoxypropyl methanesulfonate | CS(=O)(=O)OCCCOC | C5H12O4S
